US04950675
Step 1--Preparation of 3,5-Dicarbomethoxy-1,4-Dihydro-4-(4-fluorophenyl)-2,6-bis(1-methylethyl),pyridine
A mixture of 152 g (1.05 mole) 4-methyl-3-oxopentanic acid methyl ester, 56 ml (1.05 mole) 4-fluoro benzaldehyde and 40 ml conc. ammonium hydroxide was heated to reflux in 200 ml methanol for 48 hours. The reaction mixture was then concentrated in vacuo, the viscous residue was dissolved in 500 ml ethylether and washed with saturated sodium bisulfite. The organic layer was dried over magnesium sulfate, filtered and evaporated to yield 202 g of the Step 1 title product. Analysis for C21H26FNO4. calc; C, 67.18; H, 6.98; N, 3,73. Found: C, 67.40; H, 7.48; N, 3.88.

reactant | 4-methyl-3-oxopentanic acid methyl ester | 1.05 mole, 152 g | COC(CC(C(C)C)=O)=O | C7H12O3
reactant | 4-fluoro benzaldehyde | 1.05 mole, 56 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium hydroxide | 40 ml | [OH-].[NH4+]
solvent | methanol | 200 ml | CO | CH4O
product | 3,5-Dicarbomethoxy-1,4-Dihydro-4-(4-fluorophenyl)-2,6-bis(1-methylethyl),pyridine | C(=O)(OC)C1=C(NC(=C(C1C1=CC=C(C=C1)F)C(=O)OC)C(C)C)C(C)C | C21H26FNO4
